US06518423B1
Triethyl 5-methyl-1-(5-nitropyridin-2-yl)hexane-1,1,5-tricarboxylate
5 g of diethyl malonate was dissolved in 30 ml of N,N-dimethylformamide and 1.550 g of sodium hydride (60% oily) was added thereto under ice-cooling. Next, 7.04 g of ethyl 2,2-dimethyl-5-bromopentanoate was added to the reaction mixture and the resulting mixture was stirred at 80° C. for 2 hours. After ice-cooling the reaction mixture again, 1.550 g of sodium hydride (60% oily) was added thereto. After stirring for 25 minutes, 7.4 g of 2-chloro-5-nitropyridine was added and the resulting mixture was stirred at 80° C. for 1.5 hours. After the completion of the reaction, the reaction mixture was poured into a saturated aqueous solution of sodium chloride and repeatedly extracted with ethyl acetate. The extracts were dried over anhydrous sodium sulfate and filtered. The filtrate was distilled under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluted with ethyl acetate/n-hexane) to thereby give 9.71 g of the title compound as a yellow oily substance.

reactant | diethyl malonate | 5 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 1.550 g | [H-].[Na+]
reactant | ethyl 2,2-dimethyl-5-bromopentanoate | 7.04 g | CC(C(=O)OCC)(CCCBr)C | C9H17BrO2
reactant | sodium hydride | 1.550 g | [H-].[Na+]
reactant | 2-chloro-5-nitropyridine | 7.4 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Triethyl 5-methyl-1-(5-nitropyridin-2-yl)hexane-1,1,5-tricarboxylate | 9.71 g | CC(CCCC(C(=O)OCC)(C(=O)OCC)C1=NC=C(C=C1)[N+](=O)[O-])(C)C(=O)OCC | C21H30N2O8
